US06380235B1
6-(3-Chloro-phenyl)-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one
A mixture of 6-bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one (2 g, 75 mmol), 3-chlorophenylboronic acid (1.6 g, 10 mmol), potassium carbonate (4 g, 30 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.4 g, 0.35 mmol) in dimethoxyethane (100 ml), ethanol (25 ml), and water (25 ml) was heated to reflux for 6 hrs. After cooling to room temperature the mixture was diluted with water and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water, then brine, dried (MgSO4) and evaporated to give crude product (1.5 g, 66%). Recrystallization from EtOAc/hexane afforded the title compound: mp 146-150° C. 1H-N (DMSO-d6) δ1.16 (d, J=6.37 Hz, 6H), 3.57 (s, 2H), 4.21 (septet, J=6.59 Hz, 1H), 6.87 (d, J=7.91 Hz, 1H), 6.98 (dd, J=7.91, 1.76 Hz, 1H), 7.02 (d, J=1.76 Hz, 1H), 7.35 (m, 1H), 7.43 (t, J=7.69 Hz, 1H), 7.57 (m, 1H), 7.66 (t, J=1.76 Hz, 1H), 10.48 (s, 1H). MS (EI) m/z 300 (M)++1 chlorine.

reactant | 6-bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one | 75 mmol, 2 g | BrC=1C=C2N(CC(NC2=CC1)=O)C(C)C | C11H13BrN2O
reactant | 3-chlorophenylboronic acid | 10 mmol, 1.6 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 30 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.35 mmol, 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 6-(3-Chloro-phenyl)-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one | ClC=1C=C(C=CC1)C=1C=C2N(CC(NC2=CC1)=O)C(C)C | C17H17ClN2O
